US05821243
(a) Preparation of Ethyl 3-(5-benzotriazolylhydrazino)-4-oxopentanoate
To a solution of 1.0 g. (7.45 mmoles) of 5-aminobenzotriazole in 10 ml. of ethanol, was added 10 ml. of water and 45 ml. of concentrated sulfuric acid. The solution was cooled to 0° C. and a solution of 560 mg. (8.2 mmoles) of sodium nitrite in 3 ml. of water was added dropwise. After 90 minutes at this temperature, the solution was added to a solution of 1.53 g. (8.2 mmoles) of 3-acetyl-4-oxopentanoate, 2.05 g. (22.3 mmoles) and sodium acetate in 10 ml. of ethanol and 20 ml. of water. A solid began to separate which was collected after 30 minutes to give 1.73 g. of product.

reactant | 5-aminobenzotriazole | 7.45 mmoles | NC1=CC2=C(NN=N2)C=C1 | C6H6N4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 8.2 mmoles | N(=O)[O-].[Na+]
reactant | 3-acetyl-4-oxopentanoate | 8.2 mmoles | C(C)(=O)C(CC(=O)[O-])C(C)=O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 3-(5-benzotriazolylhydrazino)-4-oxopentanoate | N1N=NC2=C1C=CC(=C2)NNC(CC(=O)OCC)C(C)=O | C13H17N5O3
